US07732626B2
(4′-{[tert-butyl(dimethyl)silyl]oxy}-3′-chloro-2′,6′-dimethylbiphenyl-3-yl)methanol
To a solution of 4′-{[tert-butyl(dimethyl)silyl]oxy}-3′-chloro-2′,6′-dimethylbiphenyl-3-carbaldehyde (1.78 g, 4.75 mmol) in a mixed solvent of in tetrahydrofuran (10 mL) and methanol (5 mL) was added sodium borohydride (90%, 90 mg, 2.38 mmol) under ice-cooling, and the mixture was stirred at the same temperature for 2 hr under nitrogen atmosphere. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=5:95-40:60) to give the title compound (1.74 g, yield 97%) as a colorless oil.

reactant | 4′-{[tert-butyl(dimethyl)silyl]oxy}-3′-chloro-2′,6′-dimethylbiphenyl-3-carbaldehyde | 4.75 mmol, 1.78 g | [Si](C)(C)(C(C)(C)C)OC1=C(C(=C(C(=C1)C)C1=CC(=CC=C1)C=O)C)Cl | C21H27ClO2Si
reactant | methanol | 5 mL | CO | CH4O
reactant | sodium borohydride | 2.38 mmol, 90 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (4′-{[tert-butyl(dimethyl)silyl]oxy}-3′-chloro-2′,6′-dimethylbiphenyl-3-yl)methanol | 1.74 g, yield 97% | [Si](C)(C)(C(C)(C)C)OC1=C(C(=C(C(=C1)C)C1=CC(=CC=C1)CO)C)Cl | C21H29ClO2Si
